US04839374
A mixture of 3.16 parts of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 4.4 parts of 1-(2-furanylmethyl)-2-(4-piperidinylmethyl)-1H-benzimidazole, 2 parts of sodium hydrogen carbonate and 80 parts of ethanol was stirred and refluxed for 32 hours. The reaction mixture was cooled and filtered over Hyflo. The filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in methanol. The salt was filtered off and dried, yielding 4.2 parts (43%) of 1-[3-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]propyl]-1,3-dihydro-2H-benzimidazol-2-one ethanedioate (1:2); mp. 214.7°-218.4° C. (139).

reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 1-(2-furanylmethyl)-2-(4-piperidinylmethyl)-1H-benzimidazole | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)CC2CCNCC2 | C18H21N3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]propyl]-1,3-dihydro-2H-benzimidazol-2-one ethanedioate | 43% | C(C(=O)O)(=O)O.O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCCN2C(NC1=C2C=CC=C1)=O | InChI=1S/C28H31N5O2.C2H2O4/c34-28-30-24-9-2-3-10-25(24)32(28)15-6-14-31-16-12-21(13-17-31)19-27-29-23-8-1-4-11-26(23)33(27)20-22-7-5-18-35-22;3-1(4)2(5)6/h1-5,7-11,18,21H,6,12-17,19-20H2,(H,30,34);(H,3,4)(H,5,6)
